US07332485B2
(3S,5R)-1-Formyl-3,5-Dimethyl-Cyclohexanecarboxylic Acid Methyl Ester
To a solution of (3R,5S)-3,5-dimethyl-cyclohexane-1,1-dicarboxylate (7.38 g, 32.4 mmol) in diethyl ether (250 mL) at −78° C. under a nitrogen atmosphere was added diisobutylaluminum hydride (1.5M in toluene, 43 mL, 64.8 mmol) dropwise. After 2.5 h, the reaction mixture was quenched with saturated aqueous NH4Cl solution (100 mL) then with 1N HCl solution (100 mL). The aqueous phase was extracted with diethyl ether (100 mL×5), was dried (MgSO4) and was evaporated in vacuo to yield the title compound as a clear, colorless oil (5.5 g, 85%) which was used without further purification. MH+199.

reactant | (3R,5S)-3,5-dimethyl-cyclohexane-1,1-dicarboxylate | 32.4 mmol, 7.38 g | C[C@H]1CC(C[C@H](C1)C)(C(=O)[O-])C(=O)[O-]
reactant | diisobutylaluminum hydride | 64.8 mmol, 1.5M, 43 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
product | (3S,5R)-1-Formyl-3,5-Dimethyl-Cyclohexanecarboxylic Acid Methyl Ester | COC(=O)C1(C[C@H](C[C@H](C1)C)C)C=O | C11H18O3
